US04234594
2(1,3,4-Trimethyl-5-pyrazolyl) amino-2-imidazoline
1-Acetyl-2(1,3,4-trimethyl-5-pyrazolyl) amino-2-imidazoline (29.6 g.) was treated with HCl in methanol as described in Example II to give 21.70 g. product (crystallized from CH3CN)

reactant | 1-Acetyl-2(1,3,4-trimethyl-5-pyrazolyl) amino-2-imidazoline | 29.6 g | C(C)(=O)N1C(=NCC1)NC1=C(C(=NN1C)C)C | C11H17N5O
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 2(1,3,4-Trimethyl-5-pyrazolyl) amino-2-imidazoline | CN1N=C(C(=C1NC=1NCCN1)C)C | C9H15N5
